US07419988B2
N′-{4-[1-ethyl-4-(2-{3-[(methylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea
Following the procedure described for Intermediate 101 using N′-(4-{1-ethyl-4-[2-(3-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea and 2M dimethylamine provided the title compound. ESMS [M+H]+: 494.0.

reactant | N′-(4-{1-ethyl-4-[2-(3-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)C=O)C2=CC=C(C=C2)NC(N(C)C)=O | C28H26N6O2
reactant | dimethylamine | 2M | CNC | C2H7N
product | N′-{4-[1-ethyl-4-(2-{3-[(methylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CNC)C2=CC=C(C=C2)NC(N(C)C)=O | C29H31N7O
